US05731306
Preparation of 2-[4-(2-Mercapto-3-phenyl-propionyl-amino)-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-4-methyl-valeric acid
Dissolve 2-[4-(2-benzoylsulfanyl-3-phenyl-propionyl-amino)-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-4-methyl-valeric acid (0.229 mmol) in degassed methanol (3 mL) and cool in an ice bath. Treat with degassed 1N aqueous lithium hydroxide (1.0 mL) and stir, allowing the ice bath to warm gradually over 3 hours. With the reaction at 0° C., acidify with 5% hydrochloric acid. Partition between methylene chloride (75 mL) and water (25 mL), dry (Na2SO4) and purify by silica gel chromatography (3:1:0.01 hexane/ethyl acetate/acetic acid followed by 1:1:0.01 hexane/ethyl acetate/acetic acid to give the title compound as a white solid (84 mg, 80.8%).

reactant | 2-[4-(2-benzoylsulfanyl-3-phenyl-propionyl-amino)-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-4-methyl-valeric acid | 0.229 mmol | C(C1=CC=CC=C1)(=O)SC(C(=O)NC1CC2=C(CN(C1=O)C(C(=O)O)CC(C)C)C=CC=C2)CC2=CC=CC=C2 | C32H34N2O5S
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
product | 2-[4-(2-Mercapto-3-phenyl-propionyl-amino)-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-4-methyl-valeric acid | 84 mg, 80.8% | SC(C(=O)NC1CC2=C(CN(C1=O)C(C(=O)O)CC(C)C)C=CC=C2)CC2=CC=CC=C2 | C25H30N2O4S
